US07705042B2
4-Cyano-1H-pyrrole-2-carboxylic acid [4-[1-(imidazole-1-carbonyl)-piperidin-4-yl]-2-(4-methyl-piperidin-1-yl)-phenyl]-amide
To a mixture of 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide bis(trifluoroacetic acid salt) (as prepared in Example 35, 20.0 mg, 0.0320 mmol) and anh Na2CO3 (6.8 mg, 0.065 mmol) in 0.30 mL of DMF was added carbonyldiimidazole (11 mg, 0.068 mmol) in 0.3 mL of THF at RT. The mixture was stirred at RT for 2 h. Treated with 20 mL of EtOAc, the mixture was washed with H2O, brine and dried with Na2SO4. Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (1-5% MeOH/DCM) gave 14 mg (86%) of the title compound as a white solid: 1H-NMR (CDCl3; 400 MHz): δ 10.7 (s, 1H), 9.16 (s, 1H), 8.33 (d, 1H, J=8.3 Hz), 7.95 (s, 1H), 7.47 (s, 1H), 7.13 (s, 1H), 7.06 (s, 1H), 7.03 (s, 1H), 6.88 (s, 1H), 4.28 (d, 2H, J=12.9 Hz), 3.16 (d, 2H, J=12.0 Hz), 2.97 (d, 2H, J=11.6 Hz), 2.71-2.84 (m, 3H), 1.99 (d, 2H, J=12.1 Hz), 1.87 (d, 2H, J=12.1 Hz), 1.71-1.83 (m, 2H), 1.65 (s, 1H), 1.54-1.65 (m, 1H), 1.34-1.48 (m, 2H), 1.10 (d, 3H, J=6.5 Hz). Mass spectrum (ESI, m/z): Calcd. for C27H31N7O2, 486.2 (M+H), found 486.0.

reactant | 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide | CC1CCN(CC1)C1=C(C=CC(=C1)C1CCNCC1)NC(=O)C=1NC=C(C1)C#N | C23H29N5O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Na2CO3 | 0.065 mmol, 6.8 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | carbonyldiimidazole | 0.068 mmol, 11 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 0.30 mL | CN(C)C=O | C3H7NO
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-Cyano-1H-pyrrole-2-carboxylic acid [4-[1-(imidazole-1-carbonyl)-piperidin-4-yl]-2-(4-methyl-piperidin-1-yl)-phenyl]-amide | 14 mg, 86% | N1(C=NC=C1)C(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1NC=C(C1)C#N)N1CCC(CC1)C | C27H31N7O2
